US08492378B2
5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazole-2-thiol
A solution of 2,3-dihydro-1-benzofuran-5-carbohydrazide (535 mg, 3.00 mmol), carbon disulfide (0.397 mL, 6.60 mmol) and triethylamine (0.460 mL, 3.30 mmol) in ethanol (5 mL) was heated under reflux for 24 hr. After cooling, the reaction mixture was diluted with ethyl acetate, washed with 0.1M hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from hexane/tetrahydrofuran to give the title compound (529 mg, yield 80%) as pale-yellow crystals.

reactant | 2,3-dihydro-1-benzofuran-5-carbohydrazide | 3.00 mmol, 535 mg | O1CCC2=C1C=CC(=C2)C(=O)NN | C9H10N2O2
reactant | carbon disulfide | 6.60 mmol, 0.397 mL | C(=S)=S | CS2
reactant | triethylamine | 3.30 mmol, 0.460 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazole-2-thiol | 529 mg, yield 80% | O1CCC2=C1C=CC(=C2)C2=NN=C(O2)S | C10H8N2O2S
